US05618812
A solution of methyl anthranilate (98.3 g) and trifluoroethyl trichloromethanesulphonate (91.5 g) in m-xylene (200 ml) was heated at reflux for 3 h under nitrogen. The reaction mixture was allowed to cool overnight, then filtered from a white solid, washing well with diethyl ether. The combined filtrates were evaporated in vacuo and the residual oil purified by flash chromatography (silica gel, 10% diethyl ether/hexane) to give methyl 2-[N-(2,2,2-trifluoroethyl)]aminobenzoate, contaminated with trifluoroethyl trichloromethanesulphonate. To a solution of this mixture (35.8 g) in dichloromethane (150 ml), cooled to 1° C. under nitrogen, was added dropwise bromoacetyl bromide (10.1 ml), keeping the temperature below +3° C. The reaction mixture was stirred at 0°±3° C. for 12 min, then 4N NaOH solution (33.4 ml) was added dropwise over 18 min. The cooling bath was removed and the reaction mixture was stirred at room temperature for 4 h. More bromoacetyl bromide (1.6 ml) was added dropwise and the mixture was stirred for a further 6 h. After leaving to stand overnight, the organic layer was separated, washed with 10% citric add (30 ml), brine (30 ml), saturated potassium carbonate solution (30 ml) and brine (30 ml), dried (Na2SO4) and evaporated in vacuo to leave a yellow oil. This was purified by flash chromatography (silica gel, 20-25% EtOAc/petroleum ether) to afford the title compound (27.4 g). 1H NMR (CDCl3) δ3.58 (1H, d, J=11.4 Hz), 3.64 (1H, d, J=11.3 Hz), 3.83 (1H, m), 3.90 (3H, s), 4.79 (1H, m), 7.49 (1H, d, J=7.8 Hz), 7.57 (1H, t of d, J=7.6 and 1.3 Hz), 7.68 (1H, t of d, J=7.6 and 1.7 Hz), 8.09 (1H, dd, J=7.8 and 1.6 Hz). MS (CI+, NH3) m/e 373/371 (M+NH4)+.

reactant | methyl anthranilate | 98.3 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | trifluoroethyl trichloromethanesulphonate | 91.5 g | ClC(S(=O)(=O)OCC(F)(F)F)(Cl)Cl | C3H2Cl3F3O3S
solvent | m-xylene | 200 ml | C1(=CC(=CC=C1)C)C | C8H10
product | methyl 2-[N-(2,2,2-trifluoroethyl)]aminobenzoate | FC(CNC1=C(C(=O)OC)C=CC=C1)(F)F | C10H10F3NO2
